US06063962
(a) 2-(tert-butyloxycarbonylamino)-N-(1,2-diphenyl-1-methylethyl)acetamide
A reaction vessel was charged with dichloromethane (360 l) and Boc-glycine (32.6 kg, 186.3 mol). Triethylamine (18.8 kg, 186.1 mol) was added cautiously keeping the temperature below 25° C. The mixture was cooled to below -5° C. and pivaloyl chloride (trimethylacetyl chloride, 22.4 kg, 185.9 mol) in dichloromethane (40 l) was added at such a rate as to keep the temperature below -5° C. This was washed in with dichloromethane (2 l). The mixture was then stirred at below -5° C. for 2-2.5 h and then 1,2-diphenyl-2-propylamine hydrochloride (40 kg, 161.1 mol, dry weight estimate, actual weight including moisture 42.94 kg) was added as a solid through the manway keeping the temperature below -5° C. Triethylamine (28.4 kg, 281.2 mol) was then added keeping the temperature below -5° C. This was washed in with dichloromethane (2 l). The mixture was stirred at below -5° C. for 2.75-3.25 h, water (400 l) was added and the mixture stirred for at least 15 min. The organic layer was separated and washed with dilute hydrochloric acid made up from concentrated hydrochloric acid (40 l) and water (400 l). The organic layer was again separated and then about 80% (360 l) of the dichloromethane was removed by distillation. Isopropyl alcohol (140 l) was then charged and distillation continued until the head temperature reached 80° C. The solution was then cooled and isopropyl alcohol added to make up to a total weight of 200 kg. This solution was then divided in two by weight and each half used directly in the next step.

reactant | Boc-glycine | 186.3 mol, 32.6 kg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | Triethylamine | 186.1 mol, 18.8 kg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 185.9 mol, 22.4 kg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1,2-diphenyl-2-propylamine hydrochloride | 161.1 mol, 40 kg | Cl.C1(=CC=CC=C1)CC(C)(C1=CC=CC=C1)N
reactant | Triethylamine | 281.2 mol, 28.4 kg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 l | ClCCl | CH2Cl2
solvent | dichloromethane | 360 l | ClCCl | CH2Cl2
product | 2-(tert-butyloxycarbonylamino)-N-(1,2-diphenyl-1-methylethyl)acetamide | C(C)(C)(C)OC(=O)NCC(=O)NC(CC1=CC=CC=C1)(C)C1=CC=CC=C1 | C22H28N2O3
